US07759337B2
Step 2: 6-chloro-1-(2.4-dimethylphenyl)phthalazine
A mixture of 1,6-dichlorophthalazine (300 mg, 1507 μmol), 2,4-dimethylphenylboronic acid (249 mg, 1658 μmol), Pd(PPh3)2Cl2 (52.9 mg, 75.4 μmol, Strem), and sodium carbonate (479 mg, 4522 μmol) in DME:EtOH:H2O=7:2:3 (5 mL) was heated to 130° C. for 5 min in the Emrys Optimizer microwave. The mixture was diluted with MeOH and H2O and concentrated over SiO2. The residue was purified with flash chromatography (MeOH/CH2Cl2=0→2%) to afford the title compound. MS (ESI, pos. ion) m/z: 269 (M+1).

reactant | 1,6-dichlorophthalazine | 1507 μmol, 300 mg | ClC1=NN=CC2=CC(=CC=C12)Cl | C8H4Cl2N2
reactant | 2,4-dimethylphenylboronic acid | 1658 μmol, 249 mg | CC1=C(C=CC(=C1)C)B(O)O | C8H11BO2
reactant | sodium carbonate | 4522 μmol, 479 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | EtOH | CCO | C2H6O
solvent | DME | COCCOC | C4H10O2
solvent | MeOH | CO | CH4O
solvent | H2O | O | H2O
catalyst | Pd(PPh3)2Cl2 | 75.4 μmol, 52.9 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-chloro-1-(2.4-dimethylphenyl)phthalazine | ClC=1C=C2C=NN=C(C2=CC1)C1=C(C=C(C=C1)C)C | C16H13ClN2
